US05530002
2.1. 4-[(5-Methoxy-1H-inden-3-yl)acetyl]-1-(naphth-1-yl)piperazine
2.0 g (0.012 mol) of N,N'-carbonyldiimidazole are added in small portions to a solution of 2.45 g (0.012 mol) of 5-methoxy-1H-indene-3-acetic acid in 12 ml of tetrahydrofuran, which has been placed under an argon atmosphere, and the mixture is stirred for 1 h. A solution of 2.55 g (0.012 mol) of 1-(naphth-1-yl)piperazine in 10 ml of tetrahydrofuran is added, and the mixture is left to stand overnight. The solvent is evaporated under reduced pressure. The residual oil is taken up in water and diethyl ether, and the solid obtained is collected by filtration and dried. 4.13 g of a product are obtained which is used as it is in the following step.

reactant | 5-methoxy-1H-indene-3-acetic acid | 0.012 mol, 2.45 g | COC=1C=C2C(=CCC2=CC1)CC(=O)O | C12H12O3
reactant | 1-(naphth-1-yl)piperazine | 0.012 mol, 2.55 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[(5-Methoxy-1H-inden-3-yl)acetyl]-1-(naphth-1-yl)piperazine | 4.13 g | COC=1C=C2C(=CCC2=CC1)CC(=O)N1CCN(CC1)C1=CC=CC2=CC=CC=C12 | C26H26N2O2
